US04698329
Meanwhile, the t-butoxycarbonyl group was removed from 412 mg (1.1 mmole) of 4(S)-t-butoxycarbonylamino-3(S)-hydroxy-6-methylheptanoyl-L-isoleucinol with 6N hydrogen chloride in dioxane, as described in Example 1(b), to yield 4(S)-amino-3(S)-hydroxy-6-methylheptanoyl-L-isoleucinol hydrochloride. This product was dissolved in 5 ml of dimethylformamide, and the resulting solution was added to the above-mentioned hydrazide solution, and the mixture was stirred at 4° C. for 7 days. The solvent was distilled off under reduced pressure. Water was added to the residue, and the oily substance produced was extracted with ethyl acetate. The organic extract was washed with 1N hydrochloric acid, water, a 5% w/v aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, in that order, and dried over anhydrous sodium sulfate. It was then condensed by evaporation under reduced pressure. The syrupy residue was purified by silica gel preparative thin layer chromatography, using a 5:1 by volume mixture of chloroform and methanol as the developing solvent. The active fractions extracted with ethyl acetate. The extract was washed with water and with a saturated aqueous solution of sodium chloride, dried, and then condensed by evaporation under reduced pressure. On adding diethyl ether to the residues, the condensate solidified, and this was finely ground and then collected by filtration to yield 402 mg of the title compound as a colorless powder melting at 206°-212° C., [α]23 -95.0° (C=0.3, methanol).

reactant | 4(S)-t-butoxycarbonylamino-3(S)-hydroxy-6-methylheptanoyl-L-isoleucinol | 1.1 mmole, 412 mg | C(C)(C)(C)OC(=O)N[C@H]([C@]([C@H](NC(CCCCC(C)C)=O)CO)(C)O)C | C19H38N2O5
reactant | hydrogen chloride | 6N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4(S)-amino-3(S)-hydroxy-6-methylheptanoyl-L-isoleucinol hydrochloride | Cl.N[C@H]([C@]([C@H](NC(CCCCC(C)C)=O)CO)(C)O)C | InChI=1S/C14H30N2O3.ClH/c1-10(2)7-5-6-8-13(18)16-12(9-17)14(4,19)11(3)15;/h10-12,17,19H,5-9,15H2,1-4H3,(H,16,18);1H/t11-,12+,14-;/m0./s1
